US06605601B2
Step 6: 3-[4-(2-Oxo-3-propyl-6-thioxo-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid methyl ester
3-[4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid methyl ester (250 mg, 0.64 mmol) was dissolved in 8 mL of pyridine. P4S10 (430 mg, 1.5 eq) was added and the reaction mixture was stirred under reflux for 3 h. It was then cooled to rt and quenched with 3 mL of H2O and then with enough 6 N HCl to bring the pH to 3. The resulting reaction mixture was extracted with CHCl3. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The crude residue was purified by preparative HPLC to afford 100 mg of the desired product.

reactant | 3-[4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid methyl ester | 0.64 mmol, 250 mg | COC(CCC12CCC(CC1)(CC2)C2=NC=1N(C(NC(C1N2)=O)=O)CCC)=O | C20H28N4O4
reactant | P4S10 | 430 mg, 1.5 eq | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 3-[4-(2-Oxo-3-propyl-6-thioxo-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid methyl ester | 100 mg | COC(CCC12CCC(CC1)(CC2)C2=NC=1N(C(NC(C1N2)=S)=O)CCC)=O | C20H28N4O3S
